US04940707
92.8 g of 4-hydroxybenzaldehyde are dissolved in 820 ml of dimethylformamide. After the addition of 228 g of 4-(2-choroethyl)morpholine and 415 g of finely powdered potassium carbonate the reaction mixture is heated to 100° overnight under argon and while stirring vigorously. The cooled solution is poured into 3 l of ice-water, extracted with ethyl acetate, washed with water, dried and evaporated. The residual dark oil is distilled in a high vacuum and gives 132 g of 4-(2-morpholinoethoxy)benzaldehyde as a yellowish oil, boiling point 145°-150°/33 Pa.

reactant | 4-hydroxybenzaldehyde | 92.8 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 4-(2-choroethyl)morpholine | 228 g | ClCCN1CCOCC1 | C6H12ClNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 820 ml | CN(C=O)C | C3H7NO
product | 4-(2-morpholinoethoxy)benzaldehyde | 132 g | O1CCN(CC1)CCOC1=CC=C(C=O)C=C1 | C13H17NO3
